US04652680
Preparation of tricyclo[3.3.1.13,7 ]decan-2-one O-[(cyclohexyl)aminocarbonyl]oxime
To a cooled solution (ice-water at 10° C.) of 2-adamantanone oxime (5.0 g, 0.03 mol) in 300 ml dichloromethane was added dropwise cyclohexyl isocyanate (3.77 g, 0.03 mol) in dichloromethane (25 ml). The resulting solution was stirred at 10° C. for 3-4 h, then the solvent was evaporated under reduced pressure to yield the title compound, tricyclo[3.3.1.13,7 ]decane-2-one O-[(cyclohexyl)aminocarbonyl]oxime. After repeated crystallization from ether-hexane, 6.2 g of the title compound were obtained as white crystals (m.p., 110°-112° C.).

reactant | 2-adamantanone oxime | 0.03 mol, 5.0 g | C12C(C3CC(CC(C1)C3)C2)=NO | C10H15NO
reactant | cyclohexyl isocyanate | 0.03 mol, 3.77 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | tricyclo[3.3.1.13,7 ]decane-2-one O-[(cyclohexyl)aminocarbonyl]oxime | C1(CCCCC1)NC(=O)ON=C1C2CC3CC(CC1C3)C2 | C17H26N2O2
